US05506267
(4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoyl)aspartic acid
To (4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoyl)aspartic acid di-t-butyl ester as obtained in Example 21 (197 mg), trifiuoroacetic acid (5 ml) was added, followed by stirring at room temperature for 4 hours. The mixture was concentrated to yield the title compound (170 mg, yield 97%) as a colorless crystal.

reactant | (4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoyl)aspartic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)CC(=O)OC(C)(C)C)=O | C57H98N2O10S
reactant | trifiuoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoyl)aspartic acid | 170 mg, yield 97% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NC1=CC=C(C(=O)N[C@@H](CC(=O)O)C(=O)O)C=C1)COC(CCCCCCCCCCCCCCC)=O | C49H82N2O10S
